US09238656B2
Synthesis of (1S,2S,3R,4R)-3-[6-Bromo-2-(2,6-dimethoxy-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound CVI)
In a similar fashion to Compound LXXXVII, (1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (50 mg, 0.148 mmol) and 2,6-Dimethoxy-benzaldehyde (27 mg, 0.163 mmol) were reacted to produce 49 mg (68%) of the title compound. mp: 194-197° C., 1H NMR (300 MHz, DMSO-d6): 12.6 (s, 1H), 8.00 (s, 1H), 7.57 (s, 1H), 7.45 (t, J=8 Hz, 1H), 7.12 (s, 1H), 6.80 (d, J=8 Hz, 2H), 6.23 (br s, 1H), 6.17 (br s, 1H), 5.14 (t, J=8 Hz, 1H), 3.73 (s, 6H), 2.84 (s, 1H), 2.69 (s, 1H), 2.54 (d, J=8 Hz, 1H), 2.25 (d, J=8 Hz, 1H), 2.09 (s, 1H), 1.38 (d, J=8 Hz, 1H). MS: 484, 486 (M+H), HPLC: 2.33 min (G method)

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.148 mmol, 50 mg | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Br | C13H16BrN5O
reactant | 2,6-Dimethoxy-benzaldehyde | 0.163 mmol, 27 mg | COC1=C(C=O)C(=CC=C1)OC | C9H10O3
product | (1S,2S,3R,4R)-3-[6-Bromo-2-(2,6-dimethoxy-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 49 mg, 68% | BrC=1C(=C2C(=NC1)NC(=N2)C2=C(C=CC=C2OC)OC)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C22H22BrN5O3
